US07105534B2
A mixture of 2-amino-3-hydroxypyridine (2.18 g, 19.4 mmol), bromo-1,1,1-trifluoroacetone (9.1 g, 42.6 mmol), and molecular sieves (6.3 g, 8–12 mesh beads) in anhydrous methanol (50 mL) was refluxed for 24 h. After the molecular sieves were filtered off and the solvent was evaporated in vacuo, the residue was dissolved in water (150 mL) and the resultant mixture was extracted with diethyl ether (2×150 mL). The combined organic extracts were dried over anhydrous sodium sulphate and the solvent was evaporated in vacuo to provide the crude 8-hydroxy-2-(trifluoromethyl)imidazo[1,2-α]pyridine. Purification by column chromatography using as eluent a mixture of ethyl acetate and isopropylamine (98:2 v/v) yielded 0.7 g of pure 8-hydroxy-2-(trifluoromethyl)imidazo[1,2-α]pyridine.

reactant | 2-amino-3-hydroxypyridine | 19.4 mmol, 2.18 g | NC1=NC=CC=C1O | C5H6N2O
reactant | bromo-1,1,1-trifluoroacetone | 42.6 mmol, 9.1 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | methanol | 50 mL | CO | CH4O
product | 8-hydroxy-2-(trifluoromethyl)imidazo[1,2-α]pyridine | 0.7 g | OC=1C=2N(C=CC1)C=C(N2)C(F)(F)F | C8H5F3N2O
